US08278290B2
a) Preparation of {4-[6-Methoxy-3-(3,4,5-trimethoxy-benzoyl)-benzofuran-2-yl]-pyrazol-1-yl}-acetic acid ethyl ester (Entry 30, Table 1)
To a stirred solution of [6-Methoxy-2-(1H-pyrazol-4-yl)-benzofuran-3-yl]-(3,4,5-trimethoxyphenyl)-methanone (45 mg, 0.091 mmol) and potassium carbonate (40 mg, 0.29 mmol) in dry DMF (2.5 mL) was added ethyl bromoacetate (30 μL, 0.27 mmol) and the reaction heated to 70° C. for 2 h. After cooling to room temperature the reaction mixture was quenched with 10% NH4Cl(aq) (20 mL) and extracted with ethyl acetate (30 mL). The organic layer was separated and washed with water (3×10 mL) and brine (10 mL), dried over magnesium sulphate and the solvent removed under reduced pressure. The crude residue was purified by flash column chromatography (silica gel, eluent=2:1 hexane:ethyl acetate) to give the title compound as a yellow solid (44 mg, 98%). 1H-NMR (CDCl3) δ 8.28 (s, 1H), 8.06 (s, 1H), 7.13 (s, 2H), 7.10 (d, J=8.7 Hz, 1H), 7.04 (d, J=2.1 Hz, 1H), 6.79 (dd, J=8.7, 2.1 Hz, 1H), 4.91 (s, 2H), 4.23 (q, J=7.1 Hz, 2H), 3.93 (s, 3H), 3.86 (s, 3H), 3.77 (s, 6H), 1.27 (t, J=7.1 Hz, 3H).

reactant | [6-Methoxy-2-(1H-pyrazol-4-yl)-benzofuran-3-yl]-(3,4,5-trimethoxyphenyl)-methanone | 0.091 mmol, 45 mg | COC1=CC2=C(C(=C(O2)C=2C=NNC2)C(=O)C2=CC(=C(C(=C2)OC)OC)OC)C=C1 | C22H20N2O6
reactant | potassium carbonate | 0.29 mmol, 40 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 0.27 mmol, 30 μL | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | {4-[6-Methoxy-3-(3,4,5-trimethoxy-benzoyl)-benzofuran-2-yl]-pyrazol-1-yl}-acetic acid ethyl ester | 44 mg, 98% | C(C)OC(CN1N=CC(=C1)C=1OC2=C(C1C(C1=CC(=C(C(=C1)OC)OC)OC)=O)C=CC(=C2)OC)=O | C26H26N2O8
